US07691879B2
1-(but-3-enyloxy)-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile
Following the procedure for 1-(allyloxy)-6-methoxy-4-phenylisoquinoline-3-carbonitrile, using 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile in place of 1-chloro-6-methoxy-4-phenylisoquinoline-3-carbonitrileand 1-buten-4-ol in place of allyl alcohol, the title compound was synthesized.

reactant | 1-(allyloxy)-6-methoxy-4-phenylisoquinoline-3-carbonitrile | C(C=C)OC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C20H16N2O2
reactant | 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC(=CC=C1)F)C#N | C17H10ClFN2O
product | 1-(but-3-enyloxy)-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | C(CC=C)OC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC(=CC=C1)F)C#N | C21H17FN2O2
